US04906634
trans-N-[4-[2-(Diethylamino)cyclohexyloxy]phenyl]methanesulfonamide methanesulfonic acid salt
To 3.16 g (12 mmol) of trans-2-(4-aminophenoxy)-N,N-diethylcyclohexanamine in 20 mL of acetonitrile under an N2 atmosphere add 2.10 g (10 mmol) of methanesulfonic acid anhydride. Stir the reaction for 3 h at 50° C. Cool the reaction mixture and remove the solvent in vacuo. Recrystallize the resulting product from acetone/ether to afford the title compound.

reactant | trans-2-(4-aminophenoxy)-N,N-diethylcyclohexanamine | 12 mmol, 3.16 g | NC1=CC=C(O[C@H]2[C@@H](CCCC2)N(CC)CC)C=C1 | C16H26N2O
reactant | methanesulfonic acid anhydride | 10 mmol, 2.10 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | trans-N-[4-[2-(Diethylamino)cyclohexyloxy]phenyl]methanesulfonamide methanesulfonic acid salt | CS(=O)(=O)O.C(C)N([C@H]1[C@@H](CCCC1)OC1=CC=C(C=C1)NS(=O)(=O)C)CC | InChI=1S/C17H28N2O3S.CH4O3S/c1-4-19(5-2)16-8-6-7-9-17(16)22-15-12-10-14(11-13-15)18-23(3,20)21;1-5(2,3)4/h10-13,16-18H,4-9H2,1-3H3;1H3,(H,2,3,4)/t16-,17-;/m1./s1
